US07635715B2
Step A: Preparation of 4-(3-Bromo-4-methoxyphenyl)-tetrahydro-2H-pyran-4-carbonitrile
A mixture of sodium tert-butoxide (6.7 g, 70 mmol) in 100 mL NMP stirred at 0° C. was treated dropwise with a mixture of 2-(3-bromo-4-methoxyphenyl)acetonitrile (6.3 g, 28 mmol) and 1-bromo-2-(2-bromoethoxy)ethane (6.5 g, 28 mmol) in 30 mL ether. The mixture was allowed to warm to room temperature and was stirred for 3 hours, M+Na=318/320. The mixture was quenched with 100 mL H2O carefully and the pH was adjusted to 5. The mixture was extracted with ether (3×100 mL). The combined organic layers were washed with H2O (3×50 mL) and brine (20 mL). The organic layer was then dried over anhydrous Na2SO4, concentrated in vacuo, and purified by column chromatography eluting with 10-20% EtOAc/hexane to give 5.18 g of crude product as a yellow solid. MS m/e=318/320 (M+Na)+.

reactant | sodium tert-butoxide | 70 mmol, 6.7 g | CC(C)([O-])C.[Na+]
reactant | 2-(3-bromo-4-methoxyphenyl)acetonitrile | 28 mmol, 6.3 g | BrC=1C=C(C=CC1OC)CC#N | C9H8BrNO
reactant | 1-bromo-2-(2-bromoethoxy)ethane | 28 mmol, 6.5 g | BrCCOCCBr | C4H8Br2O
solvent | NMP | 100 mL | CN1CCCC1=O | C5H9NO
solvent | ether | 30 mL | CCOCC | C4H10O
product | 4-(3-Bromo-4-methoxyphenyl)-tetrahydro-2H-pyran-4-carbonitrile | 5.18 g | BrC=1C=C(C=CC1OC)C1(CCOCC1)C#N | C13H14BrNO2
